US05318970
2.3 g (8.64 mmole) quantity of N,N'-dicyclohexylcarbodiimide was added to 20 ml of a solution of 2.0 g (7.35 mmole) of N-decylpiperazine hydrochloride, 1.9 g (7.56 mmole) of N-t-butoxycarbonylphenylglycine, 1.3 g (15.5 mmole) of sodium hydrogencarbonate and 122 mg (1.0 mmole) of 4-dimethylaminopyridine in anhydrous methylene chloride. The mixture was stirred at room temperature for 12 hours. The precipitated crystals were collected by filtration and washed with methylene chloride. Mother liquor and the washings were combined and concentrated under reduced pressure and the residue was purified by silica gel chromatography (chloroform : methanol =15 : 1), giving 2.8 g (yield: 83 %) of 1-(N-t-butoxycarbonyl-phenylglycyl)-4-decylpiperazine.

reactant | N,N'-dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-decylpiperazine hydrochloride | 7.35 mmole, 2.0 g | Cl.C(CCCCCCCCC)N1CCNCC1
reactant | N-t-butoxycarbonylphenylglycine | 7.56 mmole, 1.9 g | C(C)(C)(C)OC(=O)N(CC(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | sodium hydrogencarbonate | 15.5 mmole, 1.3 g | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 1.0 mmole, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(N-t-butoxycarbonyl-phenylglycyl)-4-decylpiperazine | 2.8 g, yield: 83 % | C(C)(C)(C)OC(=O)N(CC(=O)N1CCN(CC1)CCCCCCCCCC)C1=CC=CC=C1 | C27H45N3O3
